US06294503B1
Preparation of 3-[5-(2-naphthoyl)amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione (Compound No.1-13)
3-[5-Amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (0.37 g) and 2-naphthoyl chloride (0.21 g) were mixed in dioxane (15 ml) and the mixture was refluxed for 6 hr. After evaporation of solvent, the residue was recrystallized from toluene (0.20 g).

reactant | 3-[5-Amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 0.37 g | NC1=C(C(=CC2=C1NC(CO2)=O)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H10F4N4O4
reactant | 2-naphthoyl chloride | 0.21 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3-[5-(2-naphthoyl)amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=C(C(=CC2=C1NC(CO2)=O)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C25H16F4N4O5
